US06172057B2
1-tert-Butyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid was prepared starting from 1-tert-butyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester (5.37 g 14 mmol) dissolved in methanol (300 ml) and 10 N NaOH (23 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 1.52 g (30.6%); white powder; mp 204° C.; MS: 356 (M+H)+.

reactant | 1-tert-butyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester | 14 mmol, 5.37 g | C(C)OC(=O)C1(CCN(CC1)C(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)OC | C19H29NO5S
solvent | methanol | 300 ml | CO | CH4O
solvent | NaOH | 10 N, 23 ml | [OH-].[Na+]
product | 1-tert-Butyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid | C(C)(C)(C)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C17H25NO5S
